US07687529B2
3-Methylamino-1-phenyl-propan-1-ol (2.5 g, 15.2 mmol) was dissolved in tetrahydrofuran (25 mL) and di-tert-butyldicarbonate (3.32 g, 15.2 mmol) was added and the mixture was stirred for 2 hours at 25° C. The mixture was concentrated and purified via Isco chromatography (Redisep, silica, gradient 0-40% ethyl acetate in hexane) to afford 3.2 g (80%) of tert-butyl [3-hydroxy-3-phenylpropyl]methylcarbamate.

reactant | 3-Methylamino-1-phenyl-propan-1-ol | 15.2 mmol, 2.5 g | CNCCC(O)C1=CC=CC=C1 | C10H15NO
reactant | di-tert-butyldicarbonate | 15.2 mmol, 3.32 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | tert-butyl [3-hydroxy-3-phenylpropyl]methylcarbamate | 3.2 g, 80% | OC(CCN(C(OC(C)(C)C)=O)C)C1=CC=CC=C1 | C15H23NO3
